US06992085B2
Step A: 1-(2-Bromoethyl)-1H-indole
The procedure is as for Example 39 using as substrate 1H-indole and 1,2-dibromoethane.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 1-(2-Bromoethyl)-1H-indole | BrCCN1C=CC2=CC=CC=C12 | C10H10BrN
